US04937377
4,5-Difluorphthalic anhydride and 4,5-difluorophthalic acid may be decarboxylated in high yield to 3,4-difluorobenzoic acid by heating in N-methyl-2-pyrrolidone or dimethyl acetamide using copper, copper oxide, copper salts, or halides and salts of Zn, Cd, Ag and Ni as a catalyst.

reactant | 4,5-Difluorphthalic anhydride | FC=1C=C2C(C(=O)OC2=O)=CC1F | C8H2F2O3
reactant | 4,5-difluorophthalic acid | FC=1C=C(C(C(=O)O)=CC1F)C(=O)O | C8H4F2O4
product | 3,4-difluorobenzoic acid | FC=1C=C(C(=O)O)C=CC1F | C7H4F2O2
